US04431647
Step A: Preparation of 4-(phenylmethoxy)-1-indanone (VII)
To a solution of 4.44 g (0.03 m) of 4-hydroxy-1-indanone in 50 ml of dimethylformamide is added 4.15 g (0.03 m) of potassium carbonate with stirring followed by the dropwise addition of 3.8 g (0.03 m) of benzyl chloride. The reaction mixture is heated at steam bath temperature for 3 hours, then cooled and diluted with water. The aqueous mixture is extracted with ethyl acetate and the extract is washed with water, dried over anhydrous sodium sulfate and concentrated to dryness in vacuo. The residue is triturated with ether and concentrated to dryness to yield: 5.86 g (82%) of a brown solid, m.p. 70°-73° C., sufficiently pure to be used in the next step.

reactant | 4-hydroxy-1-indanone | 4.44 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 3.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(phenylmethoxy)-1-indanone | C1(=CC=CC=C1)COC1=C2CCC(C2=CC=C1)=O | C16H14O2
